US08003654B2
16) Synthesis of (4-methyl-isoxazol-3-ylmethyl)-ethyl-amine
prepared by reaction of the commercially available 3-bromomethyl-4-methyl-isoxazole with 2M ethylamine in THF.

reactant | 3-bromomethyl-4-methyl-isoxazole | BrCC1=NOC=C1C | C5H6BrNO
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | (4-methyl-isoxazol-3-ylmethyl)-ethyl-amine | CC=1C(=NOC1)CNCC | C7H12N2O
